US04504305
EXAMPLE 9: 2-[1-(ethoxyimino)propyl]-5-[4-(2-methylbenzamido)phenyl]-3-hydroxy-2-cyclohexen-1-one
Into 30 ml of chloroform was dissolved 1.6 g of 5-[4-(2-methylbenzamido)phenyl]-2-propionyl-3-hydroxy-2-cyclohexen-1-one and to the solution was added 0.4 g of ethoxyamine. The mixture was kept for 15 hours at 40° C. and the reacting solution was washed with water and a surplus amount of ethoxyamine was removed from it. After dried, the chloroform was distilled off from it and ethyl ether was added in the residue. The crystal sedimented was collected with a filtering step and 1.0 g of desired compound was obtained. It was in the form of colorless crystals having a melting point of 139°-140° C.

reactant | 5-[4-(2-methylbenzamido)phenyl]-2-propionyl-3-hydroxy-2-cyclohexen-1-one | 1.6 g | CC1=C(C(=O)NC2=CC=C(C=C2)C2CC(=C(C(C2)=O)C(CC)=O)O)C=CC=C1 | C23H23NO4
reactant | ethoxyamine | 0.4 g | C(C)ON | C2H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(ethoxyimino)propyl]-5-[4-(2-methylbenzamido)phenyl]-3-hydroxy-2-cyclohexen-1-one | 1.0 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O)=O | C25H28N2O4
